US04092311
Ethyl 3-[6-(p-chlorophenyl)-3-pyridazinyl]carbazate
A mixture of 5.0 g. of 6-(p-chlorophenyl)-3-chloropyridazine and 6.86 g. of ethyl carbazate in 80 ml. of n-butyl alcohol is prepared. This solution is stirred and heated at reflux temperature for 4 hours. The reaction mixture is cooled in an ice bath and the resulting solid filtered, washed with n-butyl alcohol, water and dried. The product is recrystallized from ethanol to give crystalline material, m.p. 190°-192° C.

reactant | 6-(p-chlorophenyl)-3-chloropyridazine | ClC1=CC=C(C=C1)C1=CC=C(N=N1)Cl | C10H6Cl2N2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | Ethyl 3-[6-(p-chlorophenyl)-3-pyridazinyl]carbazate | ClC1=CC=C(C=C1)C1=CC=C(N=N1)NNC(=O)OCC | C13H13ClN4O2
